US08445487B2
4-(2-Chloro-9H-purin-6-yl)morpholine (75 mg) was reacted with (bromomethyl)benzene via General Procedure C to give 4-(9-benzyl-2-chloro-9H-purin-6-yl)morpholine which was reacted with 150 mg tert-butyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl carbonate via General Procedure A and purified via reverse phase HPLC to give 92.2 mg of 143 as a white solid. MS (Q1) 388.2 (M)+

reactant | 4-(2-Chloro-9H-purin-6-yl)morpholine | 75 mg | ClC1=NC(=C2N=CNC2=N1)N1CCOCC1 | C9H10ClN5O
reactant | (bromomethyl)benzene | BrCC1=CC=CC=C1 | C7H7Br
product | 4-(9-benzyl-2-chloro-9H-purin-6-yl)morpholine | C(C1=CC=CC=C1)N1C2=NC(=NC(=C2N=C1)N1CCOCC1)Cl | C16H16ClN5O
